US07125896B2
b) 2-Bromophenylbenzyl ether
Potassium carbonate (9.12 g) was suspended in dimethylformamide (25 ml) and 2-bromophenol (3.46 g) was added portionwise. Benzyl bromide (3.76 g) was added and the mixture heated to 60° C. for 4 h. After cooling the mixture was added to water (250 ml) and extracted three times with diethyl ether. The organic layer was separated and washed with 2M sodium hydroxide solution (100 ml) before drying over sodium sulphate. After filtration, evaporation yielded (5.13 g) as a colourless oil.

reactant | Potassium carbonate | 9.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromophenol | 3.46 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | Benzyl bromide | 3.76 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 250 ml | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-Bromophenylbenzyl ether | BrC1=C(C=CC=C1)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)C1=C(C=CC=C1)Br | C26H20Br2O
